US07820649B2
4-[3-Carboxymethyl-2-(4-fluoro-3-methoxyphenyl)-4-oxo-3,4-dihydroquinazolin-6-yl]-2,6,6-trimethylperhydro-1,4-diazepine-1-carboxylic acid tert-butyl ester (200 mg, 0.352 mmol), isopropylamine (208 mg, 299 uL, 3.52 mmol), 1-propanephosphonic acid cyclic anhydride (336 mg, 320 uL, 0.528 mmol) and DIPEA (135 mg, 186 uL, 1.06 mmol) were stirred at room temperature in DCM (15 mL) for 2 h. NaHCO3 (aq.) (15 mL) was added, the organic layer separated, dried (Na2SO4) and evaporated under reduced pressure. Crude product was purified by chromatography on silica gel with a gradient of DCM to DCM:MeOH (4:1, v/v) as eluent to afford 4-[2-(4-fluoro-3-methoxyphenyl)-3-(isopropylcarbamoylmethyl)-4-oxo-3,4-dihydroquinazolin-6-yl]-2,6,6-trimethylperhydro-1,4-diazepine-1-carboxylic acid tert-butyl ester (120 mg, 0.197 mmol, 56%).

reactant | 4-[3-Carboxymethyl-2-(4-fluoro-3-methoxyphenyl)-4-oxo-3,4-dihydroquinazolin-6-yl]-2,6,6-trimethylperhydro-1,4-diazepine-1-carboxylic acid tert-butyl ester | 0.352 mmol, 200 mg | C(C)(C)(C)OC(=O)N1C(CN(CC(C1)(C)C)C=1C=C2C(N(C(=NC2=CC1)C1=CC(=C(C=C1)F)OC)CC(=O)O)=O)C | C30H37FN4O6
reactant | isopropylamine | 3.52 mmol, 299 uL, 208 mg | C(C)(C)N | C3H9N
reactant | 1-propanephosphonic acid cyclic anhydride | 0.528 mmol, 320 uL, 336 mg | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
reactant | DIPEA | 1.06 mmol, 186 uL, 135 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | NaHCO3 | 15 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 4-[2-(4-fluoro-3-methoxyphenyl)-3-(isopropylcarbamoylmethyl)-4-oxo-3,4-dihydroquinazolin-6-yl]-2,6,6-trimethylperhydro-1,4-diazepine-1-carboxylic acid tert-butyl ester | 0.197 mmol, 120 mg, 56% | C(C)(C)(C)OC(=O)N1C(CN(CC(C1)(C)C)C=1C=C2C(N(C(=NC2=CC1)C1=CC(=C(C=C1)F)OC)CC(NC(C)C)=O)=O)C | C33H44FN5O5
